US07105533B2
A solution of 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone (150 mg, 0.49 mmol) and 2-amino-1,3,4-thiadiazole (49 mg, 0.49 mmol) in ethanol (3 mL) was heated to reflux for 2 h, then concentrated. The residue was dissolved in ethyl acetate (25 mL) and washed with saturated aqueous NaHCO3 (10 mL), brine (10 mL), dried (MgSO4), and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (2:1) to afford 6-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[2,1-b][1,3,4]thiadiazole. 1H NMR (CD3OD, 300 MHz) δ 9.28 (s, 1H), 8.91 (s, 1H), 8.84 (d, 1H), 8.68 (dt, 1H), 8.37 (d, 1H), 8.05 (ddd, 1H), 7.85 (d, 1H), 7.81 (br s, 1H), 7.72 (dd, 1H), 4.09 (s, 3H) ppm. MS (ESI) 309 (M)+.

reactant | 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone | 0.49 mmol, 150 mg | BrCC(=O)C1=CC(=C(C=C1)C1=NC=CC=C1)OC | C14H12BrNO2
reactant | 2-amino-1,3,4-thiadiazole | 0.49 mmol, 49 mg | NC=1SC=NN1 | C2H3N3S
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 6-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[2,1-b][1,3,4]thiadiazole | COC=1C=C(C=CC1C1=NC=CC=C1)C=1N=C2SC=NN2C1 | C16H12N4OS
